US07572784B2
8-Chloro-4-dimethylaminomethylene-1-(2,6-difluorophenyl)-3,4-dihydrobenzo[c]azepin-5-one (5aa) (3.6 g, 10 mmol), guanidine hydrochloride (1.06 g, 11 mmol), potassium carbonate (4.6 g, 33 mmol), and ethanol (100 mL) were combined in a 100-mL round-bottomed flask and stirred at reflux for 3 hours. The reaction mixture was poured into 500 mL water with stirring. The mixture was extracted with ethyl acetate (4×200 mL). The organic extracts were combined, washed with saline, dried (Na2SO4), filtered, and evaporated to leave a brown solid. The solid was stirred with diethyl ether, filtered, washed with ether, then dried in vacuo to provide 9-chloro-7-(2,6-difluoro-phenyl)-5H-benzo[c]pyrimido[4,5-e]azepin-2-yl amine (3.16 g, 89%) as a light brown solid MS m/z=357 (M+H). The amine (2.0 g, 5.6 mmol), diiodomethane (7.7 g, 28.6 mmol), copper (I) iodide (1.1 g, 5.6 mmol), dry tetrahydrofuran (40 mL), and isoamyl nitrite (2.0 g, 16.8 mmol) were combined in a round-bottomed flask and stirred at reflux for 1 hour. The dark purple solution was cooled to room temperature and then transferred to a separatory funnel containing 1N HCl (250 mL) and ethyl acetate (150 mL). The organic layer was separated and the aqueous layer was extracted with ethyl acetate (100 mL). The organic extracts were combined, washed with ammonium hydroxide (3%), saturated ammonium chloride, and saturated saline, and then dried (Na2SO4), filtered, and concentrated to leave a dark oil. Purification by column chromatography (silica gel, CH2Cl2 to 10% ethyl acetate in CH2Cl2) afforded 9-Chloro-7-(2,6-difluoro-phenyl)-2-iodo-5H-benzo[c]pyrimido[4,5-e]azepine as a pale yellow solid (1.3 g, 50%) MS m/z=468 (M+H).

reactant | 8-Chloro-4-dimethylaminomethylene-1-(2,6-difluorophenyl)-3,4-dihydrobenzo[c]azepin-5-one | 10 mmol, 3.6 g | ClC=1C=CC2=C(C(=NCC(C2=O)=CN(C)C)C2=C(C=CC=C2F)F)C1 | C19H15ClF2N2O
reactant | guanidine hydrochloride | 11 mmol, 1.06 g | Cl.NC(=N)N
reactant | potassium carbonate | 33 mmol, 4.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethanol | 100 mL | C(C)O | C2H6O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | water | 500 mL | O | H2O
product | 9-chloro-7-(2,6-difluoro-phenyl)-5H-benzo[c]pyrimido[4,5-e]azepin-2-yl amine | 3.16 g, 89% | ClC=1C=CC2=C(C(=NCC3=C2N=C(N=C3)N)C3=C(C=CC=C3F)F)C1 | C18H11ClF2N4
